US07582753B2
2-[5-Cyclohexyl-1-(2-cyclopentyl-2-oxo-ethyl)-2-oxo-1,2-dihydro-benzo[e][1,2,4]triazepin-3-yl]-N-[3-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-phenyl]-acetamide
A 500 mL three-necked-reaction flask was charged with [5-cyclohexyl-1-(2-cyclopentyl-2-oxo-ethyl)-2-oxo-1,2-dihydro-benzo[e][1,2,4]triazepin-3-yl]-acetic acid (32.3 g, 78 mmol), DCM (150 mL) and a few drops of DMF. After cooling to 0° C., oxalyl chloride (8.9 mL, 102 mmol) was added by addition funnel and the mixture warmed to room temperature (over about 30 min). After this time the reaction mixture was concentrated to dryness, then charged with DCM (50 mL) and concentrated again. DCM (150 mL) was added and the reaction mixture cooled to 0° C. 3-(3-Amino-phenyl)-4H-[1,2,4]oxadiazol-5-one (14.6 g, 82 mmol) and DIPEA (41 mL, 235 mmol) in DCM (40 mL) were slowly added to the reaction by addition funnel. The reaction mixture was stirred at room temperature and monitored for starting material consumption (5 h). Upon completion, the reaction mixture was quenched with 2N HCl (140 mL), and washed with DCM (1×100 mL), then after phase separation the organic layer was washed with brine (1×100 mL). The organic layer was separated and dried (Na2SO4, 75 g), filtered and concentrated to yield a light yellow solid after high vacuum. The solid was crystallized from MeCN to yield the title compound as an off white solid.

reactant | [5-cyclohexyl-1-(2-cyclopentyl-2-oxo-ethyl)-2-oxo-1,2-dihydro-benzo[e][1,2,4]triazepin-3-yl]-acetic acid | 78 mmol, 32.3 g | C1(CCCCC1)C=1C2=C(N(C(N(N1)CC(=O)O)=O)CC(=O)C1CCCC1)C=CC=C2 | C23H29N3O4
reactant | oxalyl chloride | 102 mmol, 8.9 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-(3-Amino-phenyl)-4H-[1,2,4]oxadiazol-5-one | 82 mmol, 14.6 g | NC=1C=C(C=CC1)C1=NOC(N1)=O | C8H7N3O2
reactant | DIPEA | 235 mmol, 41 mL | CCN(C(C)C)C(C)C | C8H19N
catalyst | DMF | a few drops | CN(C)C=O | C3H7NO
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
product | 2-[5-Cyclohexyl-1-(2-cyclopentyl-2-oxo-ethyl)-2-oxo-1,2-dihydro-benzo[e][1,2,4]triazepin-3-yl]-N-[3-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-phenyl]-acetamide | C1(CCCCC1)C=1C2=C(N(C(N(N1)CC(=O)NC1=CC(=CC=C1)C1=NOC(N1)=O)=O)CC(=O)C1CCCC1)C=CC=C2 | C31H34N6O5
